US08809363B2
2-(2-fluoro-4-methylphenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane
To a solution of (2-fluoro-4-methylphenyl)boronic acid (500 mg, 3.24 mmol) in diethyl ether (20 mL) was added pinacol (360 mg, 3.24 mmol) and 4-toluenesulfonic acid monohydrate (30 mg, 162 μmol) and the resulting solution was stirred at room temperature for 18 hours. The reaction mixture was washed with a saturated aqueous sodium hydrogen carbonate solution (20 mL), dried over MgSO4 and concentrated in vacuo to give the title compound as a white solid, 740 mg, in a 97% yield. 1H NMR (400 MHz, CDCl3) δ ppm 1.33 (s, 12H), 2.34 (s, 3H), 6.82 (d, 1H), 6.93 (d, 1H), 7.60 (d, 1H).

reactant | (2-fluoro-4-methylphenyl)boronic acid | 3.24 mmol, 500 mg | FC1=C(C=CC(=C1)C)B(O)O | C7H8BFO2
reactant | pinacol | 3.24 mmol, 360 mg | OC(C)(C)C(C)(C)O | C6H14O2
reactant | 4-toluenesulfonic acid monohydrate | 162 μmol, 30 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | 2-(2-fluoro-4-methylphenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 97% yield | FC1=C(C=CC(=C1)C)B1OC(C(O1)(C)C)(C)C | C13H18BFO2
